US07402608B2
Reductive amination of 3-amino-5-phenyl-thiophene-2-carboxylic acid methyl ester (0.933 g, 4.0 mmol) and tetrahydro-thiopyran-4-one (0.464 g, 4.0 mmol)in THF (1.0 mL) employing Bu2SnCl2 (60.5 mg, 0.2 mmol) and PhSiH3 (0.476 g, 0.542 mL) was carried out as described for example 13, step 1 gave 5-phenyl-3-(tetrahydro-thiopyran-4-ylamino)-thiophene-2-carboxylic acid methyl ester (0.753 g, 56.3%). NMR 1H (CDCl3, 400 MHz): 7.64-7.6 (m, 2H), 7.44-7.34 (m, 3H), 6.9 (brm, 1H), 6.81 (brs, 1H), 3.84 (s, 3H), 3.5-3.4 (m, 1H), 2.85-2.7 (m, 4H), 2.4-2.25 (m, 2H), 1.85-1.7 (m, 2H).

reactant | 3-amino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 4.0 mmol, 0.933 g | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | tetrahydro-thiopyran-4-one | 4.0 mmol, 0.464 g | S1CCC(CC1)=O | C5H8OS
reactant | PhSiH3 | 0.542 mL, 0.476 g | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
catalyst | Bu2SnCl2 | 0.2 mmol, 60.5 mg | [Sn](Cl)(Cl)(CCCC)CCCC
product | 5-phenyl-3-(tetrahydro-thiopyran-4-ylamino)-thiophene-2-carboxylic acid methyl ester | 0.753 g, 56.3% | COC(=O)C=1SC(=CC1NC1CCSCC1)C1=CC=CC=C1 | C17H19NO2S2
